US05340811
To 14.2 g of 8-chloro-5-quinolinesulfonic acid were added 142 ml of thionyl chloride and 1.42 ml of dimethylformamide. The resultant mixture was heated under reflux for 3 hours and the thionyl chloride was removed by distillation under reduced pressure to obtain a residue. The thus obtained residue was dissolved in 100 ml of ice water and adjusted to pH 6 with a saturated aqueous sodium hydrogencarbonate solution, followed by extraction with 100 ml of dichloromethane. The dichloromethane layer was added dropwise to 100 ml of a dichloromethane solution containing 3.56 g of ethanolamine and 5.6 g of triethylamine over 30 minutes while cooling with ice. The mixture was stirred at a temperature of 15° C. to 20° C. for 2 hours. After completion of the reaction, the resultant mixture was washed with 200 ml of water and dried over anhydrous magnesium sulfate. Then, the solvent was removed by distillation under reduced pressure, to thereby obtain 14.0 g of N-(2-hydroxyethyl)-8-chloro-5-quinolinesulfonamide (yield: 84%).

reactant | 8-chloro-5-quinolinesulfonic acid | 14.2 g | ClC1=CC=C(C=2C=CC=NC12)S(=O)(=O)O | C9H6ClNO3S
reactant | thionyl chloride | 142 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 1.42 ml | CN(C=O)C | C3H7NO
product | N-(2-hydroxyethyl)-8-chloro-5-quinolinesulfonamide | 14.0 g, yield: 84% | OCCNS(=O)(=O)C=1C=2C=CC=NC2C(=CC1)Cl | C11H11ClN2O3S
